US06207678B1
Sodium borohydride (2.03 g) was added portionwise to a solution of 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-al (17.02 g) (see Preparation 27) in 2-propanol (250 ml). The mixture was stirred at room temperature overnight and glacial acetic acid (4 ml) carefully added, followed by addition of water (2 ml). The solvent was removed under reduced pressure to give a residue which was dissolved in dichloromethane and washed sequentially with water, dilute aqueous sodium hydrogen carbonate solution and brine. The solution was dried over anhydrous sodium sulphate and the solvent removed under reduced pressure. The crude product was chromatographed on silica gel eluting with 1:1, by volume, ethyl acetate:hexane to give 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-ol (14.7 g) as a colourless oil and as a mixture of diastereomers.

reactant | Sodium borohydride | 2.03 g | [BH4-].[Na+]
reactant | 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-al | 17.02 g | ClC=1C=C(C=CC1Cl)C(C=O)CCOC1OCCCC1 | C15H18Cl2O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | water | 2 ml | O | H2O
solvent | 2-propanol | 250 ml | CC(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-ol | 14.7 g | ClC=1C=C(C=CC1Cl)C(CO)CCOC1OCCCC1 | C15H20Cl2O3
